US07250515B2
The mixture of ethyl 2-cyano-3-ethoxyacrylate (28.5 g, 0.168 mol) and 4-aminobenzoic acid ethyl ester (26.5 g, 0.16 mol) was heated at 150° C. for 2 h, detected by HPLC. After cooling to room temperature, the reaction mixture was dried under reduced pressure to give 4-(2-cyano-2-ethoxycarbonyl-vinylamino)-benzoic acid ethyl ester as a grey solid. LC-MS m/e 289 (MH+).

reactant | ethyl 2-cyano-3-ethoxyacrylate | 0.168 mol, 28.5 g | C(#N)C(C(=O)OCC)=COCC | C8H11NO3
reactant | 4-aminobenzoic acid ethyl ester | 0.16 mol, 26.5 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
product | 4-(2-cyano-2-ethoxycarbonyl-vinylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC=C(C(=O)OCC)C#N)=O | C15H16N2O4
